US04873335
Step C: 3-[2-(3-chlorophenyl)ethyl]picolinic acid.
3-[2-(3-chlorophenyl)ethyl]-N-(1,1-dimethylethyl)-2-pyridine carboxamide (1.0 mole, 317 g), sulfuric acid (325 mL) and water (300 mL) are refluxed at about 130° C. for approximately 2 hours. Completeness of the reaction is determined by thin layer chromatography. The reaction mixture is cooled to about 35° C. and added to ice (2 kg). The mixture is then brought to about pH 11 with 50% sodium hydroxide. Additional ice (1 kg) is added, followed by ethyl acetate (1 liter) and hexane (525 mL). The mixture is acidified to about pH 4 with sulfuric acid and stirred for about 1 hour. Crude product is isolated by filtration, washed with water and hexane and optionally dried at about 50° C. Then the crude product is dissolved in ethyl acetate by refluxing at about 75° C. After treating the solution with decolorizing carbon (5 g), the filtrate is concentrated and cooled to about 15° C. Purified product is isolated by filtration, washed with hexane: ethyl acetate (3:1) and dried at about 50° C. A second crop may be obtained by concentrating the mother liquor and recrystallizing from ethyl acetate as described above. The yield of product is shown to be 60%.

reactant | 3-[2-(3-chlorophenyl)ethyl]-N-(1,1-dimethylethyl)-2-pyridine carboxamide | 1.0 mole, 317 g | ClC=1C=C(C=CC1)CCC=1C(=NC=CC1)C(=O)NC(C)(C)C | C18H21ClN2O
reactant | sulfuric acid | 325 mL | S(O)(O)(=O)=O | H2O4S
reactant | water | 300 mL | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | hexane | 525 mL | CCCCCC | C6H14
solvent | ethyl acetate | 1 liter | C(C)(=O)OCC | C4H8O2
product | 3-[2-(3-chlorophenyl)ethyl]picolinic acid | ClC=1C=C(C=CC1)CCC=1C(=NC=CC1)C(=O)O | C14H12ClNO2
